US08252824B2
5-(2-Oxo-2H-pyridin-1-yl)-furan-2-carboxylic acid [2-methyl-4-(2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-amide
The title compound was prepared in a manner substantially the same as example 1 by coupling 2-methyl-4-(2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenylamine with 5-(2-oxo-2H-pyridin-1-yl)-furan-2-carboxylic acid. MS: 447.2 (M+H).

reactant | 2-methyl-4-(2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)N1C(CCC1)C)N | C16H25N3
reactant | 5-(2-oxo-2H-pyridin-1-yl)-furan-2-carboxylic acid | O=C1N(C=CC=C1)C1=CC=C(O1)C(=O)O | C10H7NO4
product | 5-(2-Oxo-2H-pyridin-1-yl)-furan-2-carboxylic acid [2-methyl-4-(2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-amide | CC1=C(C=CC(=C1)N1CC(CC1)N1C(CCC1)C)NC(=O)C=1OC(=CC1)N1C(C=CC=C1)=O | C26H30N4O3
